### PR TITLE
[Merged by Bors] - feat: lint against using `native_decide`

### PR DESCRIPTION
**Pull request by grunweg**
Mathlib disallows this (as it depends on the entire Lean compiler, and not just the kernel).
The lean4checker job would already detect this (as using `native_decide` uses the `ofReduceBool` axiom): the purpose of this linter is to provide quick user feedback.

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Linter.20for.20native_decide/with/521076855)

---

- [x] depends on: #24924

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by mattrobball — APPROVED** [review]
Thanks for the tests. I assume it would have minimal impact on the runtime.

File: Mathlib/Geometry/Manifold/WhitneyEmbedding.lean [hunk 1]
```diff
@@ -137,3 +137,6 @@ theorem exists_embedding_euclidean_of_compact [T2Space M] [CompactSpace M] :
   haveI := f.fintype
   rcases f.exists_immersion_euclidean with ⟨n, e, hsmooth, hinj, hinj_mfderiv⟩
   exact ⟨n, e, hsmooth, hsmooth.continuous.isClosedEmbedding hinj, hinj_mfderiv⟩
+
+lemma test : 1 + 1 = 2 := by
+  native_decide
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/WhitneyEmbedding.lean:142]: Ok, I just read the last message above.

**Comment by mattrobball** [comment]
If we are still running lean4checker in CI, then I don't see the value of anything but a syntax linter.

**Comment by grunweg** [comment]
> If we are still running lean4checker in CI, then I don't see the value of anything but a syntax linter.

Ah right - there's a daily (IIRC) lean4checker job run in CI. So this linter is purely for faster user feedback/education, not as a safety net.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 2]
```diff
@@ -94,9 +105,40 @@ def getSetOptionMaxHeartbeatsComment : Syntax → Option (Name × Nat × Substri
...
+          if args'[1]! matches (.ident _ _ `config _) then
+            match args'[3]! with
+            |  `({ native := true }) => return true
+            |  `({ native := false }) => return false
+            | _ =>
+              dbg_trace "warning: unhandled config {args'[3]!}"
+              return false
+        | _ => let _n := 0
+    return enabled
+  | _ => false
```
Comment (adomani) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:136]:
```suggestion
def isDecideNative (stx : Syntax ): Bool :=
  match stx with
  | .node _ ``Lean.Parser.Tactic.decide args =>
    -- The configuration passed to the tactic call.
    let config := args[1]![0]
    -- Check all configuration arguments in order to determine the final
    -- toggling of the native decide option.
    if let (.node _ _ config_args) := config then
      let natives := config_args.filterMap (match ·[0] with
        | `(Parser.Tactic.posConfigItem| +native) => some true
        | `(Parser.Tactic.negConfigItem| -native) => some false
        | `(Parser.Tactic.valConfigItem| (config := {native := true})) => some true
        | `(Parser.Tactic.valConfigItem| (config := {native := false})) => some false
        | _ => none)
      natives.back? == some true
    else
      false
  | _ => false
```

I find the syntax matching easier to read.  It also opens the possibility of extending the matching to being more robust, in case people get creating and use
```lean
example : 1 + 1 = 2 := by decide (config := {native := true || true})
example : 1 + 1 = 2 := by decide (config := {native := true, revert := true})

```
to bypass the checks.

**Comment by mattrobball** [comment]
Since this is for user feedback, I would caution against going too crazy with capturing all the potential syntactical combinations. Given that, I don't think it is there right now. What are the most common ways it would get invoked? Covering those serves the purpose. 

Separately what exactly does `-kernel` do? I can guess but does anyone know off the top of their heads.

**Comment by adomani** [comment]
A quick regex search seems to suggest that right now there are very few such uses:
```
decide +revert +kernel
decide +kernel
decide +revert
```
Curiously, the combinations above all appear in `Counterexamples/HomogeneousPrimeNotPrime.lean`, though some subsets appear elsewhere as well.

**Comment by b-mehta** [comment]
> Separately what exactly does `-kernel` do? I can guess but does anyone know off the top of their heads.

The option `+kernel` skips one elaboration step and looks through semireducible things a bit harder in my understanding. Here's the docstring:

> If true (default: false), then use only kernel reduction when reducing the Decidable instance. This is more efficient, since the default mode reduces twice (once in the elaborator and again in the kernel), however kernel reduction ignores transparency settings.

(So `-kernel` will turn this off, but the default is for it to be off)


On the PR itself, it seems to make more sense to me to disallow `ofReduceBool` rather than this specific way of invoking that axiom, is there a reason to prefer this?

**Comment by mattrobball** [comment]
`lean4checker` does a more exhaustive check for `ofReduceBool`. This is to signal to users not use native decide.

**Comment by b-mehta** [comment]
> `lean4checker` does a more exhaustive check for `ofReduceBool`. This is to signal to users not use native decide.

But surely an axiom checking linter would be just as fast and give immediate feedback, while being more general?

**Comment by adomani** [comment]
If you want to check axioms for all declarations, there should be some caching of previous answers, since otherwise you have to traverse *all* expressions all the time.  However, syntax linters cannot modify the environment, so implementing a caching mechanism would be fragile and not too effective.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by grunweg** [comment]
I just updated this PR:
- merged the master branch
- used more compact syntax matching (thanks for the suggestion!)
- clarified that the checking of the old config syntax is incomplete, and that the whole linter is informational

I'd like to land #24924 first, but otherwise this PR is good to go from my side.

**Comment by grunweg** [comment]
Thanks for the quick review!

File: MathlibTest/DeprecatedSyntaxLinter.lean [hunk 3]
```diff
@@ -83,6 +83,65 @@ warning: declaration uses 'sorry'
...
+because it trusts the entire Lean compiler (not just the Lean kernel),
+it could quite possibly be used to prove false.
+note: this linter can be disabled with `set_option linter.style.nativeDecide false`
+-/
+#guard_msgs in
+example : 1 + 1 = 2 := by decide (config := { native := true })
+example : 1 + 1 = 2 := by decide (config := { native := false })
+-- Not handled yet: since mathlib hardly uses the old config syntax and this linter is purely
+-- for user information (and not hard guarantees), we deem this acceptable.
+example : 1 + 1 = 2 := by decide (config := { native := false, kernel := false })
```
Comment (b-mehta) [inline MathlibTest/DeprecatedSyntaxLinter.lean]: I think this should be accepted by lean4checker, right? The comment seems to be describing `config := { native := true, kernel := false }`, which would be rejected by lean4checker but accepted by the new linter

Comment (grunweg) [reply MathlibTest/DeprecatedSyntaxLinter.lean]:
```suggestion
example : 1 + 1 = 2 := by decide (config := { native := true, kernel := false })

**Comment by grunweg** [comment]
`bors merge`
edit: oops, I thought this PR was already delegated. Sorry.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 4]
```diff
@@ -142,7 +188,8 @@ def deprecatedSyntaxLinter : Linter where run stx := do
   unless getLinterValue linter.style.refine (← getLinterOptions) ||
       getLinterValue linter.style.cases (← getLinterOptions) ||
       getLinterValue linter.style.admit (← getLinterOptions) ||
-      getLinterValue linter.style.maxHeartbeats (← getLinterOptions) do
+      getLinterValue linter.style.maxHeartbeats (← getLinterOptions) ||
+      Linter.getLinterValue linter.style.nativeDecide (← getLinterOptions) do
```
Comment (b-mehta) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean]:
```suggestion
      getLinterValue linter.style.nativeDecide (← getLinterOptions) do
```
untested, but from the earlier examples I expect this should work?

**Review by b-mehta — APPROVED** [review]
This looks helpful and the tests show it behaves as it should, but this isn't really my area, so I'll

maintainer merge

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean]: It does, thanks!

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 5]
```diff
@@ -112,6 +147,17 @@ def getDeprecatedSyntax : Syntax → Array (SyntaxNodeKind × Syntax × MessageD
       rargs.push (kind, stx,
         "The `admit` tactic is discouraged: \
          please strongly consider using the synonymous `sorry` instead.")
+    | ``Lean.Parser.Tactic.decide =>
+      if isDecideNative stx then
+        rargs.push (kind, stx, "Using `decide +native` is not allowed in mathlib:\n\
+        because it trusts the entire Lean compiler (not just the Lean kernel),\n\
```
Comment (adomani) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean]:
```suggestion
        rargs.push (kind, stx, "Using `decide +native` is not allowed in mathlib: \
        because it trusts the entire Lean compiler (not just the Lean kernel), \
```
I think that I prefer if line breaks are handled by the infoview formatter, since it is aware of the actual space that is available to display the messages.

Similarly below.

**Review by adomani — COMMENTED** [review]
Thanks!  Modulo the formatting suggestion, this looks good to me!

bors d+

**Comment by grunweg** [comment]
Thanks for the review!
bors merge

**Comment by grunweg** [comment]
bors merge
